US06316466B1
5-amino-4-(3-aminobenzoyl)-1-(4-fluorophenyl)pyrazole (0.5 g, 1.6 mmol), 1-bromo-3-chloropropane (0.26 g, 1.6 mmol) and cesium carbonate (0.52 g, 1.6 mmol) in dimethylformamide (25 ml) was heated at 80° C. After 2 days, the reaction mixture was cooled to room temperature and diluted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography (elution gradient: 20% acetone/hexanes) to give 5-amino-4-[3-(3-chloropropylamino)benzoyl]-1-(4-fluorophenyl)pyrazole (0.2 g) as a solid.

reactant | 5-amino-4-(3-aminobenzoyl)-1-(4-fluorophenyl)pyrazole | 1.6 mmol, 0.5 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)N)=O | C16H13FN4O
reactant | 1-bromo-3-chloropropane | 1.6 mmol, 0.26 g | BrCCCCl | C3H6BrCl
reactant | cesium carbonate | 1.6 mmol, 0.52 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-amino-4-[3-(3-chloropropylamino)benzoyl]-1-(4-fluorophenyl)pyrazole | 0.2 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)NCCCCl)=O | C19H18ClFN4O
